US05400427
Decyl adamantane was prepared by reacting 140 g 1-decene, 54.4 gram adamantane in 100 cc n-hexane solvent and using 3 mmoles 1.0M AlBr3 in CH2Br2 or AlBr3 catalyst at 15°-50° C. reaction temperature. The product was isolated by quench the catalyst with dilute acid and aqueous work-up followed by distillation at 155° C. and 0.2 mm-Hg using a Kugelrohr to remove any C20 -material. The C30 + fraction was obtained in 80% yeild. It was hydrogenated at 200° C. and 500 psi H2 using 1 wt. % Ni/SiO2 catalyst.

reactant | 1-decene | 140 g | C=CCCCCCCCC | C10H20
reactant | adamantane | 54.4 gram | C12CC3CC(CC(C1)C3)C2 | C10H16
reactant | AlBr3 | 3 mmoles, 1.0M | [Al](Br)(Br)Br
solvent | n-hexane | 100 cc | CCCCCC | C6H14
solvent | CH2Br2 | C(Br)Br | CH2Br2
catalyst | AlBr3 | [Al](Br)(Br)Br
product | Decyl adamantane | C(CCCCCCCCC)C12CC3CC(CC(C1)C3)C2 | C20H36
